### PR TITLE
feat: add `simp` to lemma `Fin.coe_ofNat_eq_mod`

### PR DESCRIPTION
**Pull request by ocfnash**
One consequence is that `simp` can now prove things like this:
```lean
example : (3 : Fin 10).val = 3 := by simp
example : (4 : Fin 10).val = 4 := by simp
example : (5 : Fin 10).val = 5 := by simp
```
previously this only this only worked up to `(2 : Fin 10).val = 2` (via lemmas like `Fin.val_two`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -300,11 +300,12 @@ section Add
 ### addition, numerals, and coercion from Nat
 -/
 
-@[simp]
-theorem val_one' (n : ℕ) [NeZero n] : ((1 : Fin n) : ℕ) = 1 % n :=
-  rfl
+@[simp] theorem val_ofNat [NeZero n] : (ofNat(m) : Fin n).val = m % n := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:303]: I think this already exists as `Fin.coe_ofNat_eq_mod`

Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:303]: (which also raises that the RHS is incorrect)

Comment (ocfnash) [reply Mathlib/Data/Fin/Basic.lean:303]: I'll let this build first just to be sure nothing is sensitive to the change.

Comment (eric-wieser) [reply Mathlib/Data/Fin/Basic.lean:303]: I think when I tried it before `simp` caused trouble, but maybe I just was fixing something else and didn't want to scope creep.

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -1436,10 +1435,16 @@ theorem coe_natCast_eq_mod (m n : ℕ) [NeZero m] :
     ((n : Fin m) : ℕ) = n % m :=
   rfl
 
+@[simp]
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Data/Fin/Basic.lean:1438]: Ok, the formatting drops the name for projections.

[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Data/Fin/Basic.lean:1438]: I also have Eric's question? Is there a way to ask Lean to tell us the answer?

[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Data/Fin/Basic.lean:1438]: I see, thanks!

[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/Data/Fin/Basic.lean:1438]: You can also use `#discr_tree_key` for non-simp things.

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -1436,10 +1435,16 @@ theorem coe_natCast_eq_mod (m n : ℕ) [NeZero m] :
...
 theorem coe_ofNat_eq_mod (m n : ℕ) [NeZero m] :
     ((ofNat(n) : Fin m) : ℕ) = ofNat(n) % m :=
   rfl
 
+instance [NeZero n] : NeZero (2 : Fin (n + 2)) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Basic.lean:1443]: I guess this generalizes to
```suggestion
instance [NeZero n] [NeZero ofNat(m)] : NeZero (ofNat(m) : Fin (n + ofNat(m))) := by
```

Comment (ocfnash) [reply Mathlib/Data/Fin/Basic.lean]: Good idea; done.

**Comment by mattrobball** [comment]
!bench

**Review by mattrobball — APPROVED** [review]
`simpNF` seems ok with the new theorem as does typeclass synthesis. Please benchmark again if new ones are added.

**Comment by ocfnash** [comment]
> > mattrobball I love that you keep fighting the good fight for performance :) Thanks!
> 
> I am losing very badly.

But just think how much worse things _could_ be!

**Comment by mattrobball** [comment]
I would merge and/or delegate but I'm waiting on if @eric-wieser has more thoughts. Weekend is starting so I'll be less responsive for bit.

**Comment by ocfnash** [comment]
Oh there's no rush at all!

File: Mathlib/Data/Fin/Basic.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Data/Fin/Basic.lean]: I also have a vague recollection that this wasn't made `simp` deliberately, but I also don't remember a concrete reason. So I think we should go with this!

**Comment by ocfnash** [comment]
Closed in favour of fork PR https://github.com/leanprover-community/mathlib4/pull/26095
